### PR TITLE
[Merged by Bors] - feat: derivations of (univariate) polynomials

### PR DESCRIPTION
**Pull request by kbuzzard**
An R-derivation from `R[X]` is determined by its value on `X`. Joint work with Richard Hill, who needs this stuff for his work on power series. We followed `MvPolynomial.Derivation` .

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Polynomial/AlgebraMap.lean [hunk 1]
```diff
@@ -178,6 +178,9 @@ theorem adjoin_X : Algebra.adjoin R ({X} : Set R[X]) = ⊤ := by
 set_option linter.uppercaseLean3 false in
 #align polynomial.adjoin_X Polynomial.adjoin_X
 
+theorem mem_adjoin_X (f : R[X]) : f ∈ Algebra.adjoin R ({X} : Set R[X]) := by
+  simp only [adjoin_X, Algebra.mem_top]
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/AlgebraMap.lean:182]: I'm not sure this lemma is useful, given that it follows trivially from `adjoin_X`

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+section
+
+@[simp]
+theorem derivation_C (D : Derivation R (Polynomial R) A) (a : R) : D (C a) = 0 :=
+  D.map_algebraMap a
+
+-- simp normal form is `derivation_C_mul'`
+theorem derivation_C_mul (D : Derivation R (Polynomial R) A) (a : R) (f : Polynomial R) :
+    D (C a * f) = a • D f := by rw [C_mul', D.map_smul]
+
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Derivation.lean:36]: This one looks a bit weird to me: it uses simp-normal form on the LHS but not the RHS.

The version with the simp-normal form on both sides is `derivation_C_mul'`, while the one with neither side is `D.map_smul`: so I'd argue we should just drop this lemma.

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 3]
```diff
@@ -0,0 +1,70 @@
...
+open scoped BigOperators
+
+noncomputable section
+
+variable {R A : Type _} [CommSemiring R] [AddCommMonoid A] [Module R A] [Module (Polynomial R) A]
+
+section
+
+@[simp]
+theorem derivation_C (D : Derivation R (Polynomial R) A) (a : R) : D (C a) = 0 :=
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Derivation.lean:30]: How easily does this theory generalize to `Derivation R (Polynomial S) A`?

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+@[ext]
+theorem derivation_ext {D₁ D₂ : Derivation R (Polynomial R) A} (h : D₁ X = D₂ X) : D₁ = D₂ :=
+  Derivation.ext fun f => Derivation.eqOn_adjoin (Set.eqOn_singleton.2 h) (mem_adjoin_X f)
+
+variable [IsScalarTower R (Polynomial R) A]
+
+variable (R)
+
+/-- The derivation on `R[X]` that takes the value `a` on `X`. -/
+def mkDerivation (a : A) : Derivation R (Polynomial R) A where
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Derivation.lean:52]: Can you add the lemma that links `mkDerivation` to `derivative`?

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+  map_one_eq_zero' := by simp
+  leibniz' := by
+    intros f g
+    simp [mul_comm, mul_smul, add_comm]
+
+@[simp]
+theorem mkDerivation_X (a : A) : mkDerivation R a X = a := by simp [mkDerivation]
+
+/-- `Polynomial.mkDerivation` as a linear equivalence. -/
+def mkDerivationEquiv : A ≃ₗ[R] Derivation R R[X] A :=
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Derivation.lean:63]:
```suggestion
@[simps]
def mkDerivationEquiv : A ≃ₗ[R] Derivation R R[X] A :=
```

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/Data/Polynomial/Derivation.lean:30]: This PR is showing that an R-derivation on R[X] is determined by its value on X, and this is true because R[X] is generated as an R-algebra by R (on which the R-derivation has to be 0 by the axioms of a derivation) and X. If you consider R-derivations on S[X] with S an R-algebra then this argument no longer works because there can be elements of S which don't derive to 0 in this generality. So for example `derivation_C` would be false for `a : S`, `derivation_ext` would be false etc.

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Polynomial/Derivation.lean:36]: > Should I now rename derivation_C_mul' to derivation_C_mul? Should I make the corresponding change in MvPolynomial?

Yes; and doing it in this PR is fine.

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 5 above)
Comment (kbuzzard) [reply Mathlib/Data/Polynomial/Derivation.lean:63]: Will `@[simps!]` do? Asking for a linter. The reason we have a `LinearEquiv.symm` term here is that `map_add'` and `map_smul'` are much easier that way around (they're `rfl`). Looking at the output with `@[simps!?]` most of it looks OK, apart from
```
[simps.verbose] adding projection Polynomial.mkDerivationEquiv_symm_apply:
      ∀ (R : Type u_1) {A : Type u_2} [inst : CommSemiring R] [inst_1 : AddCommMonoid A] [inst_2 : Module R A]
        [inst_3 : Module R[X] A] [inst_4 : IsScalarTower R R[X] A] (a : Derivation R R[X] A),
        ↑(LinearEquiv.symm (Polynomial.mkDerivationEquiv R)) a =
          ↑(↑(LinearEquiv.symm
                    {
                      toLinearMap :=
                        {
                          toAddHom :=
                            { toFun := fun D ↦ ↑D Polynomial.X,
                              map_add' :=
                                (_ :
                                  ∀ (x x_1 : Derivation R R[X] A),
                                    (fun D ↦ ↑D Polynomial.X) (x + x_1) = (fun D ↦ ↑D Polynomial.X) (x + x_1)) },
                          map_smul' :=
                            (_ :
                              ∀ (x : R) (x_1 : Derivation R R[X] A),
                                AddHom.toFun
                                    { toFun := fun D ↦ ↑D Polynomial.X,
                                      map_add' :=
                                        (_ :
                                          ∀ (x x_2 : Derivation R R[X] A),
                                            (fun D ↦ ↑D Polynomial.X) (x + x_2) = (fun D ↦ ↑D Polynomial.X) (x + x_2)) }
                                    (x • x_1) =
                                  AddHom.toFun
                                    { toFun := fun D ↦ ↑D Polynomial.X,
                                      map_add' :=
                                        (_ :
                                          ∀ (x x_2 : Derivation R R[X] A),
                                            (fun D ↦ ↑D Polynomial.X) (x + x_2) = (fun D ↦ ↑D Polynomial.X) (x + x_2)) }
                                    (x • x_1)) },
                      invFun := Polynomial.mkDerivation R,
                      left_inv :=
                        (_ :
                          ∀ (x : Derivation R R[X] A),
                            Polynomial.mkDerivation R
                                (AddHom.toFun
                                  {
                                      toAddHom :=
                                        { toFun := fun D ↦ ↑D Polynomial.X,
                                          map_add' :=
                                            (_ :
                                              ∀ (x x_1 : Derivation R R[X] A),
                                                (fun D ↦ ↑D Polynomial.X) (x + x_1) =
                                                  (fun D ↦ ↑D Polynomial.X) (x + x_1)) },
                                      map_smul' :=
                                        (_ :
                                          ∀ (x : R) (x_1 : Derivation R R[X] A),
                                            AddHom.toFun
                                                { toFun := fun D ↦ ↑D Polynomial.X,
                                                  map_add' :=
                                                    (_ :
                                                      ∀ (x x_2 : Derivation R R[X] A),
                                                        (fun D ↦ ↑D Polynomial.X) (x + x_2) =
                                                          (fun D ↦ ↑D Polynomial.X) (x + x_2)) }
                                                (x • x_1) =
                                              AddHom.toFun
                                                { toFun := fun D ↦ ↑D Polynomial.X,
                                                  map_add' :=
                                                    (_ :
                                                      ∀ (x x_2 : Derivation R R[X] A),
                                                        (fun D ↦ ↑D Polynomial.X) (x + x_2) =
                                                          (fun D ↦ ↑D Polynomial.X) (x + x_2)) }
                                                (x • x_1)) }.toAddHom
                                  x) =
                              x),
                      right_inv := (_ : ∀ (x : A), ↑(Polynomial.mkDerivation R x) Polynomial.X = x) })).symm
            a 
```
I don't really understand `simps` properly. Should I tell simps somehow to not generate this lemma and then write a more appropriate one by hand?

Comment (eric-wieser) [reply Mathlib/Data/Polynomial/Derivation.lean:63]: There used to be a `simp_rhs := true` setting in Lean 3. I don't know if that's what `!` means (in which case, there's a simp lemma missing), or if you have to spell it differently.

I think it's fine to write the lemma manually if `simps` is generating a mess.

Comment (kbuzzard) [reply Mathlib/Data/Polynomial/Derivation.lean:63]: OK having read the docstring I understand `simps` much better. I think I'll just write these manually, given that as far as I can see there are only two.

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/Data/Polynomial/Derivation.lean:52]: This involves constructing `derivative` as a `Derivation`, which as far as I can see isn't done. I've added it to the PR.

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Data/Polynomial/Derivation.lean:36]: OK I've removed the primed lemmas (which were unused in mathlib). Is the name of the lemma even correct though? (sorry, I edited my comment at the same time as you were replying to it :-). That'll teach me.)

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 6]
```diff
@@ -0,0 +1,93 @@
...
+
+variable (R)
+
+/-- The derivation on `R[X]` that takes the value `a` on `X`. -/
+def mkDerivation (a : A) : Derivation R R[X] A where
+  toLinearMap := (LinearMap.restrictScalars R <| LinearMap.toSpanSingleton R[X] A a).comp derivative
+  map_one_eq_zero' := by simp
+  leibniz' := by
+    intros f g
+    simp [mul_comm, mul_smul, add_comm]
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Derivation.lean:65]:
```suggestion
/-- The derivation on `R[X]` that takes the value `a` on `X`. -/
def mkDerivation (a : A) : Derivation R R[X] A :=
  (LinearMap.toSpanSingleton R[X] A a).compDer derivative'
```

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Polynomial/Derivation.lean]: Oh, I just meant
```
@[simp]
theorem mkDerivation_apply (a : A) (p : R[X]) : mkDerivation R a p = Polynomial.derivative p • a :=
  rfl
```

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 6 above)
Comment (kbuzzard) [reply Mathlib/Data/Polynomial/Derivation.lean:65]: Oh yeah :-)

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+
+open scoped BigOperators
+
+noncomputable section
+
+variable {R A : Type _} [CommSemiring R]
+
+/-- ## Derivative as a derivation -/
+
+def derivative' : Derivation R R[X] R[X] where
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Derivation.lean:29]:
```suggestion
/-- `Polynomial.derivative` as a derivation. -/
@[simps]
def derivative' : Derivation R R[X] R[X] where
```

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+  toFun := derivative
+  map_add' _ _ := derivative_add
+  map_smul' := derivative_smul
+  map_one_eq_zero' := derivative_one
+  leibniz' f g := by simp [mul_comm, add_comm, derivative_mul]
+
+variable [AddCommMonoid A] [Module R A] [Module (Polynomial R) A]
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Derivation.lean:36]: Indexing a typeclass on a non-carrier type will eventually cause pain.

For example, we might one day have another ring `S` with `R ≃+* S` and wish to use some result which includes the term `Module (Polynomial R) A` in a proof that discusses `Module (Polynomial S) A`.

I wonder could we avoid doing this by introducing a `PolynomialAlgebra` typeclass along the lines of:
```lean
class PolynomialAlgebra (R P : Type _) [CommSemiring R] [Semiring P] extends Algebra R P :=
  (X : P)
  -- TODO add axioms that are equivalent to the map that sends `Polynomial.X` to `PolynomialAlgebra.X` extending to a full algebra equivalence: `R[X] ≃ₐ[R] P`
```

Alternatively we could introduce a typeclass for this specific situation since we know a module over `R[X]` is "the same as" a module over `R` together with an `R`-linear endomorphism (scalar action of `X`):
```lean
class PolynomialModule (R M : Type _) [Semiring R] [AddCommMonoid M] extends Module R M :=
  (X : M →ₗ[R] M)
```

Comment (eric-wieser) [reply Mathlib/Data/Polynomial/Derivation.lean:36]: Note that @kbuzzard is just copying what we already did for `MvPolynomial` in this PR, not that that invalidates your comment.

Comment (ocfnash) [reply Mathlib/Data/Polynomial/Derivation.lean:36]: Good point, I think we can live with this for now but I predict one day we'll want something like `PolynomialAlgebra` or `PolynomialModule`.

File: Mathlib/Data/Polynomial/Derivation.lean [hunk 9]
```diff
@@ -0,0 +1,93 @@
...
+theorem derivation_ext {D₁ D₂ : Derivation R R[X] A} (h : D₁ X = D₂ X) : D₁ = D₂ :=
+  Derivation.ext fun f => Derivation.eqOn_adjoin (Set.eqOn_singleton.2 h) <| by
+    simp only [adjoin_X, Algebra.coe_top, Set.mem_univ]
+
+variable [IsScalarTower R (Polynomial R) A]
+
+variable (R)
+
+/-- The derivation on `R[X]` that takes the value `a` on `X`. -/
+def mkDerivation (a : A) : Derivation R R[X] A :=
```
Comment (ocfnash) [inline Mathlib/Data/Polynomial/Derivation.lean:58]: I think we should upgrade this to:
```suggestion
def mkDerivation : A →ₗ[R] Derivation R R[X] A :=
```

File: Mathlib/Data/Polynomial/Derivation.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Data/Polynomial/Derivation.lean]: I also don't see a useful generalisation here.
